US08080565B2
Step A—Preparation of 8-(2,6-Dimethoxybenzyl)-1,4-dioxa-8-azaspiro[4,5]decane
A mixture of 1,4-dioxa-8-azaspiro[4,5]decane (19 mL, 0.146 mol), 2,6-dimethoxybenzaldehyde (26.7 g) and 10% Pd/C (wet, 4 g) in methanol (150 mL) was treated with hydrogen (50 psi) for 16 h. The reaction mixture was then filtered and concentrated to give 45 g of the title intermediate as a yellow solid.

reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 0.146 mol, 19 mL | O1CCOC12CCNCC2 | C7H13NO2
reactant | 2,6-dimethoxybenzaldehyde | 26.7 g | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 4 g | [Pd] | Pd
product | 8-(2,6-Dimethoxybenzyl)-1,4-dioxa-8-azaspiro[4,5]decane | 45 g | COC1=C(CN2CCC3(OCCO3)CC2)C(=CC=C1)OC | C16H23NO4
